US08349824B2
The product was prepared in the same manner as described in example 60f using 1-methyl-5-(2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (75 mg, 211 μmol) and 2-oxa-6-azaspiro[3.3]heptane hemioxalate (30.4 mg, 106 mmol) as starting materials. The reaction affords 2-methyl-4-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-2H-pyrazole-3-carboxylic acid (2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (14.5 mg, 15.7%) as off-white solid. MS: m/z=437.5 (M+H+).

reactant | 1-methyl-5-(2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 211 μmol, 75 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCCC2)=O)C(=O)O | C16H17N7O3
reactant | 2-oxa-6-azaspiro[3.3]heptane hemioxalate | 106 mmol, 30.4 mg | C(C(=O)O)(=O)O.C1OCC12CNC2.C2OCC21CNC1
product | 2-methyl-4-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-2H-pyrazole-3-carboxylic acid (2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 14.5 mg, 15.7% | N1(CCCC1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CC3(COC3)C2)C)=N1 | C21H24N8O3
